US07196104B2
Preparation BQ: 2-(Phenoxy)thiazole-4-carboxylic acid
A mixture of ethyl 2-phenoxythiazole-4-carboxylate (0.17 g, 0.68 mmol) and LiOH monohydrate (0.14 g, 3.40 mmol) in 2 mL of MeOH, 2 mL of H2O, and 2 mL of THF was stirred at RT overnight, the solvents were removed in vacuo and the residue was diluted with water. The aqueous mixture was acidified with 1N HCl (aq) to pH=1−2, then extracted with EtOAc, the combined organic portions were washed with brine, dried over MgSO4, filtered, removal of the solvents in vacuo yielded the title compound as a white solid. EI-MS =222.4 (M+H)+. Calc'd for C10H7NO3S: 221.01.

reactant | ethyl 2-phenoxythiazole-4-carboxylate | 0.68 mmol, 0.17 g | O(C1=CC=CC=C1)C=1SC=C(N1)C(=O)OCC | C12H11NO3S
reactant | THF | 2 mL | C1CCOC1 | C4H8O
solvent | MeOH | 2 mL | CO | CH4O
solvent | H2O | 2 mL | O | H2O
product | 2-(Phenoxy)thiazole-4-carboxylic acid | O(C1=CC=CC=C1)C=1SC=C(N1)C(=O)O | C10H7NO3S
